US09193719B2
3-Bromo-2-ethyl-6-nitropyridine (2.6 g, 11.3 mmol) and 2-chloro-4-hydroxypyridine (2.9 g, 22.5 mmol) were dissolved in DMA (20 mL). The solution was sonicated and sparged with Ar for 10 min. K2CO3 (4.7 g, 33.8 mmol) was added and the reaction mixture was stirred at 110° C. for 12 h. EtOAc (80 mL) was added and the suspension was washed with 10% K2CO3 (aq) (2×50 mL), 5% LiCl (aq) (2×50 mL), and brine (2×50 mL). The solution was dried (Na2SO4), concentrated in vacuo, and the resultant residue was purified by silica gel chromatography (EtOAc/hexanes) to afford 3-((2-chloropyridin-4-yl)oxy)-2-ethyl-6-nitropyridine (1.3 g, 37.2%) as a yellow oil. 1H NMR (400 MHz, DMSO-d6): δ 8.38 (d, J=5.7 Hz, 1H), 8.25 (d, J=8.7 Hz, 1H), 7.96 (d, J=8.7 Hz, 1H), 7.82 (d, J=8.6 Hz, 1H), 7.16 (dd, J=5.7, 2.3 Hz, 1H), 2.79 (q, J=7.5 Hz, 2H), 1.21 (t, J=7.5 Hz, 3H); MS (ESI) m/z: 280.0 (M+H+).

reactant | 3-Bromo-2-ethyl-6-nitropyridine | 11.3 mmol, 2.6 g | BrC=1C(=NC(=CC1)[N+](=O)[O-])CC | C7H7BrN2O2
reactant | 2-chloro-4-hydroxypyridine | 22.5 mmol, 2.9 g | ClC1=NC=CC(=C1)O | C5H4ClNO
reactant | K2CO3 | 33.8 mmol, 4.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | 80 mL | CCOC(=O)C | C4H8O2
solvent | DMA | 20 mL | CC(=O)N(C)C | C4H9NO
product | 3-((2-chloropyridin-4-yl)oxy)-2-ethyl-6-nitropyridine | 1.3 g, 37.2% | ClC1=NC=CC(=C1)OC=1C(=NC(=CC1)[N+](=O)[O-])CC | C12H10ClN3O3
